US07662832B2
Step 1: 2-methyl-7-phenyl-1H-pyrrolo[2,3-c]pyridine
In accordance with the same procedures as in Example 242, except for using 3-nitro-2-phenylpyridine prepared in Preparation 15 and isopropenylmagnesium bromide, the titled compound was obtained as a white solid. (Yield: 37%)

reactant | 3-nitro-2-phenylpyridine | [N+](=O)([O-])C=1C(=NC=CC1)C1=CC=CC=C1 | C11H8N2O2
reactant | isopropenylmagnesium bromide | C(=C)(C)[Mg]Br
product | 2-methyl-7-phenyl-1H-pyrrolo[2,3-c]pyridine | Yield: 37% | CC1=CC=2C(=C(N=CC2)C2=CC=CC=C2)N1 | C14H12N2
